US05859014
A mixture of the 3-(3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}-propyl)-1-[2-(trimethylsilyl)ethoxymethyl]-2,4(1H,3H)-pyrimidinedione (273 mg, 0.5 mmol), prepared as in Example 25, tetrabutylammonium fluoride (2 mmol) and THF (5 mL) was stirred 24 hours at 25° C. The reaction mixture then was concentrated and the residue was purified by column chromatography on silica gel eluting with ethyl acetate to give 3-(3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propyl)-2,4(1H,3H)-pyrimidinedione (160 mg, 0.39 mmol). The free base was recrystallized from a solution of hydrogen chloride in ethanol to give 3-(3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propyl)-2,4(1H,3H)-pyrimidinedione hydrochloride, m.p. 247°-249° C. Anal.: Calcd. for C19H23F3N4O3.(HCl)2 : C, 47.01; H, 5.19; N, 11.54%; Found: C, 46.84; H, 5.18; N, 11.34%.

reactant | 3-(3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}-propyl)-1-[2-(trimethylsilyl)ethoxymethyl]-2,4(1H,3H)-pyrimidinedione | 0.5 mmol, 273 mg | FC(COC1=C(C=CC=C1)N1CCN(CC1)CCCN1C(N(C=CC1=O)COCC[Si](C)(C)C)=O)(F)F | C25H37F3N4O4Si
reactant | tetrabutylammonium fluoride | 2 mmol | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-(3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propyl)-2,4(1H,3H)-pyrimidinedione | 0.39 mmol, 160 mg | FC(COC1=C(C=CC=C1)N1CCN(CC1)CCCN1C(NC=CC1=O)=O)(F)F | C19H23F3N4O3
